US06537948B1
9.18 g of trifluoromethanesulfonic acid was added to a mixture of 12 g of 3-amino-2-(ethoxycarbonyl)methoxypyridine, 36 ml of 1,2-dimethoxyethane and 12 ml of dichloromethane dropwise at −5° C. The mixture was stirred for 10 minutes at the same temperature, then, to the reaction solution was added a solution of 7.57 g of t-butyl nitrite in 3 ml of 1,2-dimethoxyethane dropwise at −5° C. or lower. The mixture was stirred for 30 minutes at the same temperature, then, into the mixture was poured n-pentane. The lower layer of two separated layers was dissolved in 12 ml of acetic anhydride, and the mixture was stirred for 2.5 hours at 50° C. The reaction solution was poured into ice water, and extracted with t-butyl methyl ether. The organic layer was washed with saturated aqueous sodium bicarbonate solution, then, saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The resulted residue was subjected to silica gel chromatography to obtain 4.2 g of 3-acetoxy-2-(ethoxycarbonyl)methoxypyridine.

reactant | trifluoromethanesulfonic acid | 9.18 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 3-amino-2-(ethoxycarbonyl)methoxypyridine | 12 g | NC=1C(=NC=CC1)OCC(=O)OCC | C9H12N2O3
reactant | dichloromethane | 12 ml | ClCCl | CH2Cl2
reactant | t-butyl nitrite | 7.57 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
solvent | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,2-dimethoxyethane | 36 ml | COCCOC | C4H10O2
solvent | n-pentane | CCCCC | C5H12
product | 3-acetoxy-2-(ethoxycarbonyl)methoxypyridine | 4.2 g | C(C)(=O)OC=1C(=NC=CC1)OCC(=O)OCC | C11H13NO5
